US06552028B2
To a solution of (2S,4R)-2-(cyanomethyl)-4-(3,4-dichloro-benzyl)-1-tert-butoxycarbonyl-pyrrolidine (6.34 g, 17.2 g) in dry THF (65 mL) was added a 1.0 M solution of BH3 in THF (110 mL, 110 mmol) and the mixture was warmed at 45° C. for 1.5 hrs. The mixture was then cooled in ice and quenched by adding water dropwise until frothing ceased. The cold mixture was acidified with 2N HCl and then another 100 mL of 1N HCl was added, the mixture then being stored at 6° C. for 16 hrs. The clear solution was made basic with aqueous Na2CO3 and the resulting emulsion then extracted with CH2Cl2, completion of the workup then affording 7.3 g of crude product. Purification by chromatography on silica gel eluting with 0.5% conc. NH4OH and 10-15% CH3OH in CH2Cl2 gave pure (2S,4R)-2-(2-aminoethyl)-4-(3,4-dichloro-benzyl)-1-tert-butoxycarbonylpyrrolidine (4.40 g, 11.8 mm) as a clear oil.

reactant | (2S,4R)-2-(cyanomethyl)-4-(3,4-dichloro-benzyl)-1-tert-butoxycarbonyl-pyrrolidine | 6.34 g | C(#N)C[C@H]1N(C[C@@H](C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C18H22Cl2N2O2
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 110 mmol, 110 mL | C1CCOC1 | C4H8O
product | (2S,4R)-2-(2-aminoethyl)-4-(3,4-dichloro-benzyl)-1-tert-butoxycarbonylpyrrolidine | 4.40 g | NCC[C@H]1N(C[C@@H](C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C18H26Cl2N2O2
